US04005073
34.6 grams of isobutylmalonic acid benzyl ester pivaloyloxymethyl ester were dissolved in 150 ml of dimethylformamide and hydrogenated with 3.0 g of 5% palladium/charcoal. After 1 hour, the hydrogen uptake (2160 ml) had finished. The hydrogenation mixture was filtered off from the catalyst and the filtrate evaporated in a high vacuum at room temperature. The oily residue was dissolved in a 10% aqueous sodium bicarbonate solution and extracted twice with diethyl ether. The diethyl ether extracts were rejected. The sodium bicarbonate phase was acidified at 0° with citric acid and extracted twice with diethyl ether. The combined diethyl ether extracts were washed once with water, dried over magnesium sulfate and evaporated under reduced pressure. There was obtained 21.5 g of pure isobutylmalonic acid mono-pivaloyloxymethyl ester in the form of a colorless oil.

reactant | isobutylmalonic acid benzyl ester pivaloyloxymethyl ester | 34.6 grams | C(C(C)(C)C)(=O)OCOC(C(C(=O)OCC1=CC=CC=C1)CC(C)C)=O | C20H28O6
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | palladium/charcoal | 3.0 g | [Pd] | Pd
product | isobutylmalonic acid mono-pivaloyloxymethyl ester | 21.5 g | C(C(C)(C)C)(=O)OCOC(C(C(=O)O)CC(C)C)=O | C13H22O6
